US06545009B1
A mixture of methyl 4-thiocarbamoylbenzoate (1.56 g), 4-difluoromethoxyphenacyl bromide (2.65 g) and ethanol (15 ml) was stirred at 80 to 90° C. for 1 hour. The reaction mixture was cooled, and precipitated crystals were collected by filtration to obtain methyl 4-[4-(4-difluoromethoxyphenyl)-2-thiazolyl]benzoate (2.00 g, yield: 69%). The product was recrystallized from ethanol to obtain pale yellow prisms. Melting Point: 146 to 148° C.

reactant | methyl 4-thiocarbamoylbenzoate | 1.56 g | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 4-difluoromethoxyphenacyl bromide | 2.65 g | FC(OC1=CC=C(C(CBr)=O)C=C1)F | C9H7BrF2O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | methyl 4-[4-(4-difluoromethoxyphenyl)-2-thiazolyl]benzoate | 2.00 g, yield: 69% | FC(OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1)F | C18H13F2NO3S
